US04242507
L-Histidine methyl ester dihydrochloride (1.21 g) is suspended into chloroform (20 ml), and therto are added triethylamine (1.40 ml) and further N-benzyloxycarbonyl-L-glutamine (1.40 g) and triethylamine (0.70 ml). After stirring for a while, to the mixture is added 1-methanesulfonyloxy-1,2,3-benzotriazole (1.07 g) and the mixture is stirred for 1 hour. After allowing to stand overnight, the solvent is distilled off. To the residue are added water and 1 N aqueous sodium hydrogen carbonate and the mixture is cooled. The precipitated gelling product is separated by filtration and washed with water. The product is heated together with a small amount of water and cooled. The precipitated by filtration to give N-(N-benzyloxycarbonyl-L-glutaminyl)-L-histidine methyl ester (1.25 g), melting point: 186°-188° C.

reactant | L-Histidine methyl ester dihydrochloride | 1.21 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | N-benzyloxycarbonyl-L-glutamine | 1.40 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(N)=O)C(=O)O | C13H16N2O5
reactant | 1-methanesulfonyloxy-1,2,3-benzotriazole | 1.07 g | CS(=O)(=O)ON1N=NC2=C1C=CC=C2 | C7H7N3O3S
solvent | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
product | N-(N-benzyloxycarbonyl-L-glutaminyl)-L-histidine methyl ester | 1.25 g | COC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(N)=O)=O)CC1=CNC=N1)=O | C20H25N5O6
